US08735417B2
To a solution of N,N-bis(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)-5-[3-(morpholin-4-yl)-5-nitrophenyl]-1,3-thiazol-2-amine (999 mg, 1.147 mmol) in ethyl acetate (10 mL) and acetic acid (1.000 mL) at R.T., under nitrogen, was added palladium on carbon (122 mg, 0.115 mmol). The mixture was purged 3 times alternating between vacuum and H2. The reaction mixture was stirred under 1 atm H2 for 2 h. The system was evacuated with vacuum and purged 3 times alternating between vacuum and N2, and 3 mL DCM were added. The mixture was filtered through a pad of celite. The pad was rinsed with ethyl acetate and the filtrate concentrated. Residual AcOH was azeotroped with toluene (3×) to give 5-[3-amino-5-(morpholin-4-yl)phenyl]-N,N-bis(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)-1,3-thiazol-2-amine as a yellow gum (958 mg, 1.139 mmol, 99%).

reactant | N,N-bis(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)-5-[3-(morpholin-4-yl)-5-nitrophenyl]-1,3-thiazol-2-amine | 1.147 mmol, 999 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCN(C=1SC(=CN1)C1=CC(=CC(=C1)[N+](=O)[O-])N1CCOCC1)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C49H58N4O5SSi2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 1.000 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.115 mmol, 122 mg | [Pd] | Pd
product | 5-[3-amino-5-(morpholin-4-yl)phenyl]-N,N-bis(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)-1,3-thiazol-2-amine | 1.139 mmol, 958 mg, 99% | NC=1C=C(C=C(C1)N1CCOCC1)C1=CN=C(S1)N(CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C49H60N4O3SSi2
